US07378417B2
7-Difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.13) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (EI) 608.3 [M]; mp 207° C.

reactant | 7-difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F)F | C17H9F8N3O3
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 7-Difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F | C24H16F8N4O4S
